US04034090
A mixture of 3-acetoxymethyl-2-carboxy-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo-[4.2.0]-oct-2-ene (12.9 g.) in water (50 cc.), sodium bicarbonate (5.52 g.) and 5-acetylamino-2-thioxo-1,3,4-thiadiazoline (6.3 g.) and potassium thiocyanate (58 g.) is heated to 60° C. for 10 hours. The mixture is allowed to cool and diluted with 1 liter of water. A slight amount of insoluble matter is filtered off on "Supercel" and the filtrate is washed with ethyl acetate (250 cc.), which is discarded. It is brought to pH 2 by adding 4 N hydrochloric acid in the presence of ethyl acetate (250 cc.). A solid (6.3 g.) is filtered off and taken up in boiling methanol (200 cc.). An insoluble material is filtered off and the filtrate is concentrated to dryness under reduced pressure (20 mm.Hg). The solid residue obtained is washed with methanol (5 cc.) to give 3-[(5-acetylamino-1,3,4-thiadiazol-2-yl)-thiomethyl]-2-carboxy-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (2.9 g.).

reactant | 3-acetoxymethyl-2-carboxy-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo-[4.2.0]-oct-2-ene | 12.9 g | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(CC=1SC(SC1)=O)=O)=O)C(=O)O | C15H14N2O7S3
reactant | sodium bicarbonate | 5.52 g | C([O-])(O)=O.[Na+]
reactant | 5-acetylamino-2-thioxo-1,3,4-thiadiazoline | 6.3 g | C(C)(=O)NC1N=NC(S1)=S | C4H5N3OS2
reactant | potassium thiocyanate | 58 g | [S-]C#N.[K+]
solvent | water | 50 cc | O | H2O
solvent | water | 1 liter | O | H2O
product | 3-[(5-acetylamino-1,3,4-thiadiazol-2-yl)-thiomethyl]-2-carboxy-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 2.9 g | C(C)(=O)NC1=NN=C(S1)SCC1=C(N2C(C(C2SC1)NC(CC=1SC(SC1)=O)=O)=O)C(=O)O | C17H15N5O6S5
